US09233946B2
3′,4′-Dichloro-N-[3-(1H-tetrazol-5-yl)phenyl]biphenyl-3-sulfonamide
The product was prepared according to General Procedure 1, described in Example 1, with [[3-(3,4-dichlorophenyl)phenyl]sulfonyl chloride (17.7 mg, 0.055 mmol) and 5-(3-aminophenyl)tetrazole (8.0 mg, 0.050 mmol). The title compound was obtained in 77% yield (17.2 mg). MS (ESI+) calcd mass for C19H13Cl2N5O2S 445.016701, found 445.016851.

reactant | [3-(3,4-dichlorophenyl)phenyl]sulfonyl chloride | 0.055 mmol, 17.7 mg | ClC=1C=C(C=CC1Cl)C=1C=C(C=CC1)S(=O)(=O)Cl | C12H7Cl3O2S
reactant | 5-(3-aminophenyl)tetrazole | 0.050 mmol, 8.0 mg | NC=1C=C(C=CC1)C1=NN=NN1 | C7H7N5
product | 3′,4′-Dichloro-N-[3-(1H-tetrazol-5-yl)phenyl]biphenyl-3-sulfonamide | 77% yield | ClC=1C=C(C=CC1Cl)C1=CC(=CC=C1)S(=O)(=O)NC1=CC(=CC=C1)C1=NN=NN1 | C19H13Cl2N5O2S
